US07288541B2
To 875.3 mg (3.71 mmol) of (2S)-3,3-dimethyl-1-[3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-butanol in 12 mL of 1,2-dichloroethane at room temperature was added 746.8 g (3.71 mmol) of 4-nitrophenyl chloroformate. Then, 359.6 μL (4.45 mmol) of pyridine was added and the solution was heated at reflux for 22 h. Upon cooling to room temperature, saturated aqueous sodium bicarbonate was added to the solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was purified by silica gel column chromatography eluting with an ethyl acetate:hexanes solution (1:4) to give 1.39 g (93%) of 4-nitrophenyl (1S)-2,2-dimethyl-1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]methyl}propyl carbonate. Rf=0.29 (3:7 ethyl acetate:hexanes); 1H-NMR (300 MHz, DMSO-d6): δ 8.28 (d, J=9 Hz, 2H), 8.07 (s, 1H), 7.31 (d, J=9 Hz, 2H), 6.74 (s, 1H), 4.87 (d, J=8 Hz, 1H), 4.69 (d, J=14 Hz, 1H), 4.42 (dd, J=15 Hz, J=10 Hz, 1H), 1.03 (s, 9H); ES-LCMS m/z 424 (M+H).

reactant | (2S)-3,3-dimethyl-1-[3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-butanol | 3.71 mmol, 875.3 mg | CC([C@@H](CN1N=C(C=C1)C(F)(F)F)O)(C)C | C10H15F3N2O
reactant | 4-nitrophenyl chloroformate | 3.71 mmol, 746.8 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 4.45 mmol, 359.6 μL | N1=CC=CC=C1 | C5H5N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 12 mL | ClCCCl | C2H4Cl2
product | 4-nitrophenyl (1S)-2,2-dimethyl-1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]methyl}propyl carbonate | 1.39 g, 93% | C(OC1=CC=C(C=C1)[N+](=O)[O-])(O[C@@H](C(C)(C)C)CN1N=C(C=C1)C(F)(F)F)=O | C17H18F3N3O5
